### PR TITLE
[Merged by Bors] - feat(RingTheory/Flat): generalize `flat_of_isLocalized_span`

### PR DESCRIPTION
**Pull request by chrisflav**
Generalize `Module.Flat.flat_of_isLocalized_span` to take `s : Set S` for any `R`-algebra `S`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Logic/Equiv/TransferInstance.lean [hunk 1]
```diff
@@ -600,6 +600,35 @@ noncomputable def _root_.Shrink.linearEquiv [Small.{v} α] [AddCommMonoid α] [M
...
   Equiv.linearEquiv _ (equivShrink α).symm
 
+variable {R : Type*} [CommSemiring R]
+variable (A : Type*) [Semiring A] [Algebra R A]
+variable [AddCommMonoid α] [AddCommMonoid β] [Module A β]
+
+/-- Transport a module instance via an isomorphism of the underlying abelian groups.
+This has better definitional properties than `Equiv.module` since here
+the abelian group structure remains unmodified. -/
+def _root_.AddEquiv.module (e : α ≃+ β) :
```
Comment (alreadydone) [inline Mathlib/Logic/Equiv/TransferInstance.lean:610]: This needs to be an `abbrev`; it's used in other typeclasses, e.g. IsScalarTower, as a parameter.

Comment (chrisflav) [reply Mathlib/Logic/Equiv/TransferInstance.lean]: Changed, but could you please explain why this has to be reducible if it is used as a parameter in a typeclass term?

Comment (alreadydone) [reply Mathlib/Logic/Equiv/TransferInstance.lean]: See the library note [here](https://github.com/leanprover-community/mathlib4/blob/16956ef06e49e3e4f34d7be6d97f170580b42a79/Mathlib/Algebra/HierarchyDesign.lean#L190-L205); unfortunately notes don't seem to appear in the documentation currently.

**Review by alreadydone — APPROVED** [review]
I've rewritten my `aux` lemma using your `IsLocalizedModule_tensorProduct_map`; it's now shorter than before and allows me to golf your `span` proof and also prove a `maximal` version: https://github.com/leanprover-community/mathlib4/commit/fc2c9d378785aa7133a92a82d120457d2f2036f2

**Comment by chrisflav** [comment]
Nice, feel free to push your commit directly to the branch.

**Comment by alreadydone** [comment]
maintainer delegate

File: Mathlib/RingTheory/Flat/Localization.lean [hunk 2]
```diff
@@ -48,57 +48,68 @@ theorem flat_iff_of_isLocalization : Flat S M ↔ Flat R M :=
...
+
+private lemma aux :
+    ⇑(LocalizedModule.map s <| AlgebraTensorModule.lTensor S M I.subtype) =
+      (iso s mR).symm ∘ₗ AlgebraTensorModule.lTensor S Mₛ I.subtype ∘ₗ iso s mI := by
+  rw [← LinearMap.coe_restrictScalars S]
+  apply congr_arg
+  rw [LinearEquiv.eq_toLinearMap_symm_comp, ← LinearEquiv.comp_toLinearMap_symm_eq]
+  refine linearMap_ext s mI mR ?_
+  rw [LinearMap.comp_assoc, iso_symm_comp]
+  ext; simp
```
Comment (alreadydone) [inline Mathlib/RingTheory/Flat/Localization.lean:67]: I think this lemma could be public and be put under `isLocalizedModule_tensorProduct_map`. It holds for (Comm?)Semiring/AddCommMonoid and arbitrary linear maps in place of `I.subtype`.

Comment (alreadydone) [reply Mathlib/RingTheory/Flat/Localization.lean:67]: And should we define `AlgebraTensorModule.rTensor` to be `AlgebraTensorModule.map _ LinearMap.id` (parallel to `LinearMap.rTensor`) and develop some API around it?

Comment (chrisflav) [reply Mathlib/RingTheory/Flat/Localization.lean:67]: I added `AlgebraTensorModule.lTensor` recently, so I am in favor of also adding `AlgebraTensorModule.rTensor`.

Comment (chrisflav) [reply Mathlib/RingTheory/Flat/Localization.lean]: Okay I refactored a bit: I added `IsLocalizedModule.map_lTensor` and `LocalizedModule.restrictScalars_map_eq` (the latter is unused in this PR, but it is your generalized `aux` lemma), removed `aux` and now use `injective_of_isLocalized_{span,maximal}` directly instead of going via `IsLocalizedModule.iso`.

File: Mathlib/RingTheory/Localization/BaseChange.lean [hunk 3]
```diff
@@ -131,3 +132,33 @@ instance (R M : Type*) [CommRing R] [AddCommGroup M] [Module R M]
...
+  haveI : IsScalarTower R Aₚ M' :=
+    IsScalarTower.of_algebraMap_smul <| fun r x ↦ by simp [IsScalarTower.algebraMap_apply R A Aₚ]
+  rw [isLocalizedModule_iff_isBaseChange (S := S) (A := Aₚ)] at h ⊢
+  exact isBaseChange_tensorProduct_map _ h
+
+variable {P : Type*} [AddCommMonoid P] [Module R P] (f : N →ₗ[R] P)
+
+lemma IsLocalizedModule.map_lTensor (g : M →ₗ[A] M') [h : IsLocalizedModule S g] :
+    IsLocalizedModule.map S (AlgebraTensorModule.rTensor R N g) (AlgebraTensorModule.rTensor R P g)
+      (AlgebraTensorModule.lTensor A M f) = AlgebraTensorModule.lTensor A M' f := by
```
Comment (alreadydone) [inline Mathlib/RingTheory/Localization/BaseChange.lean:158]: This is clever, thanks!

**Review by alreadydone — APPROVED** [review]
Thanks! Pushed a bit of golfs.

File: Mathlib/LinearAlgebra/TensorProduct/Tower.lean [hunk 4]
```diff
@@ -251,6 +251,38 @@ lemma lTensor_one : lTensor A M (1 : N →ₗ[R] N) = 1 := map_id
...
+  map_add' f₁ f₂ := map_add_left f₁ f₂ _
+  map_smul' _ _ := map_smul_left _ _ _
+
+@[simp]
+lemma coe_rTensor (f : M →ₗ[A] P) :
+    (rTensor R N f : M ⊗[R] N → P ⊗[R] N) = f.rTensor N := rfl
+
+@[simp]
+lemma restrictScalars_rTensor (f : M →ₗ[A] P) :
+    LinearMap.restrictScalars R (rTensor R N f) = f.rTensor N := rfl
```
[the remark this answers is not in the document]
Comment (chrisflav) [reply Mathlib/LinearAlgebra/TensorProduct/Tower.lean]: Just an oversight, switched to dot notation.

**Comment by chrisflav** [comment]
@alreadydone Could you please give this another `maintainer merge` push? I think it went through the cracks.

**Comment by alreadydone** [comment]
> @alreadydone Could you please give this another `maintainer merge` push? I think it went through the cracks.

Sorry, missed the message. Pinged in `maintainer merge: t-algebra`.

File: Mathlib/Algebra/Equiv/TransferInstance.lean [hunk 5]
```diff
@@ -600,6 +600,35 @@ noncomputable def _root_.Shrink.linearEquiv [Small.{v} α] [AddCommMonoid α] [M
     Shrink.{v} α ≃ₗ[R] α :=
   Equiv.linearEquiv _ (equivShrink α).symm
 
+variable {R : Type*} [CommSemiring R]
```
Comment (kbuzzard) [inline Mathlib/Algebra/Equiv/TransferInstance.lean:603]: I am confused by this. We already have `variable {R : Type*}` in scope (line 529). Is it really wise to make a new `R`?

Comment (chrisflav) [reply Mathlib/Algebra/Equiv/TransferInstance.lean]: I am not so worried, since indeed this is the end of the section anyway. Nevertheless, I moved it into a different section.

**Comment by kbuzzard** [comment]
Thanks a lot!

bors merge
